US05686482
A 1.00 g portion of methyl 5-amino-2,4-dimethoxybenzoate was dissolved in 5 ml of water, 0.50 ml of concentrated sulfuric acid was added and then 356 mg of sodium nitrite dissolved in 2 ml of water was added dropwise under ice-cooling, followed by a short period of stirring. Separately, 1.00 g of cuprous cyanide was dissolved in 4 ml of water and, with ice-cooling, 2.00 g of sodium cyanide dissolved in 4 ml of water was added dropwise thereto, followed by 1 hour of stirring. This was mixed with the previously prepared solution and heated at 80° C. to effect the reaction, the resulting reaction solution was mixed with water, extracted with chloroform and dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure and then the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=6:1 to chloroform:methanol=50:1) to give 0.65 g of methyl 5-cyano-2,4-dimethoxybenzoate.

reactant | methyl 5-amino-2,4-dimethoxybenzoate | NC=1C(=CC(=C(C(=O)OC)C1)OC)OC | C10H13NO4
reactant | sulfuric acid | 0.50 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 356 mg | N(=O)[O-].[Na+]
reactant | sodium cyanide | 2.00 g | [C-]#N.[Na+]
solvent | water | 5 ml | O | H2O
solvent | water | 2 ml | O | H2O
solvent | water | 4 ml | O | H2O
solvent | water | 4 ml | O | H2O
product | methyl 5-cyano-2,4-dimethoxybenzoate | 0.65 g | C(#N)C=1C(=CC(=C(C(=O)OC)C1)OC)OC | C11H11NO4
